US07776857B2
A small reaction vial was charged with 4-(5-chloropyridin-2-yl)-N-(4-(6-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine (50 mg, 0.096 mmol), HBr (1.04 mL, 19.12 mmol), and acetic acid (1.1 mL, 19.12 mmol). The mixture was stirred at 85° C. for 2 hrs. LC/MS showed completion of the reaction. The reaction mixture was poured onto an aqueous sodium bicarbonate solution ice bath and the product was extracted with DCM. The organic layer was dried over sodium sulfate and concentrated to afford 8-(4-(4-(5-chloropyridin-2-yl)phthalazin-1-ylamino)phenylthio)-1,5-naphthyridin-2(1H)-one as yellow solid. MS: [M+H]=509.1; Calc'd for C27H17ClN6OS: 509.

reactant | 4-(5-chloropyridin-2-yl)-N-(4-(6-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | 0.096 mmol, 50 mg | ClC=1C=CC(=NC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC=C(N=C12)OC | C28H19ClN6OS
reactant | HBr | 19.12 mmol, 1.04 mL | Br | BrH
reactant | acetic acid | 19.12 mmol, 1.1 mL | C(C)(=O)O | C2H4O2
product | 8-(4-(4-(5-chloropyridin-2-yl)phthalazin-1-ylamino)phenylthio)-1,5-naphthyridin-2(1H)-one | ClC=1C=CC(=NC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC=1C=CN=C2C=CC(NC12)=O | C27H17ClN6OS
